US06057335
(2) Preparation of 3-amino-5-(3,4-dimethoxyphenyl)pyrazole
3,4-Dimethoxybenzoylacetonitrile (3.6 g) was dissolved in ethanol (20 ml) to which was subsequently added hydrazine monohydrate (0.87 ml) under cooling with ice. The mixture was heated under reflux for 7 hours and allowed to cool. Then, the solvent was distilled away under a reduced pressure. The resultant residue was recrystallized from ethyl acetate to obtain the title compound (2.92 g) as colorless crystals (melting point: 124-125° C.).

reactant | 3,4-Dimethoxybenzoylacetonitrile | 3.6 g | COC=1C=C(C(=O)CC#N)C=CC1OC | C11H11NO3
reactant | hydrazine monohydrate | 0.87 ml | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-amino-5-(3,4-dimethoxyphenyl)pyrazole | 2.92 g | NC1=NNC(=C1)C1=CC(=C(C=C1)OC)OC | C11H13N3O2
